US07566735B2
1-{4-[2-(3,3-difluoro-1-pyrrolidinyl)-2-oxoethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
A solution of {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid (65 mg, 0.2 mmol) in dichloromethane (2 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (33 mg, 0.2 mmol). This mixture was allowed to stir at room temperature for 15 minutes. 3,3-difluoropyrrolidine hydrochloride (29 mg, 0.2 mmol) was then added followed by triethylamine (21 mg, 0.21 mmol) and the stirring continued for 1 hour at room temperature. The reaction mixture was reduced to minimum volume under reduced pressure then purified by mass directed auto-prep to give the title compound as a yellow oil (53 mg, 64%).

reactant | {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid | 0.2 mmol, 65 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)O)(F)F | C16H15F3N2O2
reactant | 1,1′-carbonyldiimidazole | 0.2 mmol, 33 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,3-difluoropyrrolidine hydrochloride | 0.2 mmol, 29 mg | Cl.FC1(CNCC1)F
reactant | triethylamine | 0.21 mmol, 21 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(3,3-difluoro-1-pyrrolidinyl)-2-oxoethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 53 mg, 64% | FC1(CN(CC1)C(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)F | C20H20F5N3O
